US04264595
Production of benzhydryl 4-bromo-3-oxobutyrate
In 10.5 ml of methylene chloride there were dissolved 2.1 g of diketene, and at a temperature not exceeding -30° C., a solution of 4.0 g of bromine in 12.5 ml of methylene chloride was added dropwise to the solution with stirring. After the dropwise addition was completed, the mixture was maintained at 0° C. for 10 minutes. Separately, 3.68 g of benzhydrol were dissolved in 25 ml of methylene chloride, followed by addition of 2.02 g of triethylamine. Under stirring at a temperature not exceeding -30° C., the solution of bromoacetoacetyl bromide prepared above was added dropwise. After the dropwise addition, the mixture was stirred at 0° C. for 40 minutes, at the end of which time it was washed with water. After drying over magnesium sulfate the solvent was distilled off under reduced pressure, whereupon 6.99 g of benzhydryl 4-bromo-3-oxobutyrate there were obtained.

reactant | diketene | 2.1 g | C=C1CC(=O)O1 | C4H4O2
reactant | bromine | 4.0 g | BrBr | Br2
reactant | benzhydrol | 3.68 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | bromoacetoacetyl bromide | BrCC(CC(=O)Br)=O | C4H4Br2O2
solvent | methylene chloride | 10.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 12.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
product | benzhydryl 4-bromo-3-oxobutyrate | BrCC(CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H15BrO3
